US05238937
2.0 g of 2,2-dimethyl-4-(1-methyl-1,6-dihydro-6-oxo-3-pyridazinyl-amino)-6-cyano-3-chromanol are boiled in 20 ml of acetic anhydride for 2 hours. Customary working-up gives 2,2-dimethyl-3-acetoxy-4-(1-methyl-1,6-dihydro-6-oxo-3-pyridazinyl-amino)-6-cyano-3-chromene, m.p. 110°-112°.

reactant | 2,2-dimethyl-4-(1-methyl-1,6-dihydro-6-oxo-3-pyridazinyl-amino)-6-cyano-3-chromanol | 2.0 g | CC1(OC2=CC=C(C=C2C(C1O)NC1=NN(C(C=C1)=O)C)C#N)C | C17H18N4O3
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2-dimethyl-3-acetoxy-4-(1-methyl-1,6-dihydro-6-oxo-3-pyridazinyl-amino)-6-cyano-3-chromene | CC1(OC2=CC=C(C=C2C(=C1OC(C)=O)NC1=NN(C(C=C1)=O)C)C#N)C | C19H18N4O4
